US05948624
3-amino-4-methoxybenzoic acid ("19") (Aldrich Chemical; Milwaukee, Wis.) (5 g or 29.9 mmol) was suspended in 40 ml acetic acid. Acetic anhydride (3 ml or 1:04 eq) was added by stirring. The reaction mixture was stirred for 2 hours at room temperature. 25 ml of 0.1N HCl was added and the precipitate was filtered off and washed with 3×10 ml of 0.1N HCl and 5×10 ml water to produce 5.97 g (about 95%). 3-(N-acetyl) amino-4-methoxybenzoic acid ("20") (5 g or 23.5 mmol) was added to 20 ml of fuming nitric acid at 0° C. on vigorous stirring. The solution was stirred at 0° C. for an additional hour and poured onto 200 g of ice. Precipitate was filtered off, washed with 5×20 mls of water and dried to produce 4.38 g (about 72%) of 2-nitro-4-methoxy-5 (N-acetyl)aminobenzoic acid ("21"), which was converted into 2-nitro-4-methoxy-5-(N-acetyl)aminoacetophenone ("22") (about 63% yield) as described. 2-nitro-4-methoxy-5-(N-acetyl)aminoacetophenone ("22") (1 g or 4.76 mmol) was dissolved in 5 ml of DMF and the solution was added to 5-biotinamidocaproyl chloride prepared separately from 5-biotinamidocaproic acid (1.55 g or 1 eq.) and 5 ml thionyl chloride. The reaction mixture was stirred overnight at room temperature and added to 100 ml of diethyl ether. Precipitate was purified using small silica gel column and a step gradient of MeOH in CHCl3 to give 1.16 g (about 47%) of 2-nitro-4-methoxy-5-(5-biotinamidocaproamido) acetophenone ("23"). This intermediate was converted into its corresponding alcohol (about 85% yield) and into the reactive NHS ester derivative 5-(5-biotinamidocaproamido)-4-methoxy-1-(2-nitro)phenylethyl-N-hydroxysuccinimidyl carbonate ("25") with about a 69% yield.

reactant | 3-amino-4-methoxybenzoic acid | 29.9 mmol, 5 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | HCl | 0.1N, 25 ml | Cl | ClH
reactant | 3-(N-acetyl) amino-4-methoxybenzoic acid | 23.5 mmol, 5 g | C(C)(=O)NC=1C=C(C(=O)O)C=CC1OC | C10H11NO4
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | 2-nitro-4-methoxy-5 (N-acetyl)aminobenzoic acid | 4.38 g, about 72% | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1)OC)NC(C)=O | C10H10N2O6
